US05366987
(a) α-[[[2,6,-bis(1-methylethyl)phenyl]amino]carbonyl]benzene acetic acid ethyl ester
In a manner similar to Example 134, phenylacetic acid, ethyl ester was condensed with 2,6-bis(1-methylethyl)phenyl isocyanate to give the title compound, mp 168°-170° C.

reactant | phenylacetic acid, ethyl ester | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 2,6-bis(1-methylethyl)phenyl isocyanate | CC(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | α-[[[2,6,-bis(1-methylethyl)phenyl]amino]carbonyl]benzene acetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C23H29NO3
